### PR TITLE
[Merged by Bors] - feat(RingTheory/LaurentSeries): prove that Laurent Series over a field are complete

### PR DESCRIPTION
**Pull request by faenuccio**
In this PR we provide a proof that the Laurent series over a field are complete.

Co-authored-by: María Inés de Frutos-Fernández @mariainesdff 

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by faenuccio** [comment]
@PatrickMassot I have closed #12179 and ported the modifications _ibid_ in this PR, where they are used to prove the completeness of Laurent series.

File: Mathlib/Topology/UniformSpace/Basic.lean [hunk 1]
```diff
@@ -136,6 +136,31 @@ theorem mem_idRel {a b : α} : (a, b) ∈ @idRel α ↔ a = b :=
 theorem idRel_subset {s : Set (α × α)} : idRel ⊆ s ↔ ∀ a, (a, a) ∈ s := by
   simp [subset_def]
 
+theorem prod_subset_idRel_Eq_singleton_left {X : Type _} {S T : Set X} (hS : S.Nonempty)
+    (hT : T.Nonempty) (h_diag : S ×ˢ T ⊆ idRel) : ∃ x, S = {x} := by
```
Comment (jcommelin) [inline Mathlib/Topology/UniformSpace/Basic.lean:140]:
```suggestion
theorem eq_singleton_left_of_prod_subset_idRel {X : Type _} {S T : Set X} (hS : S.Nonempty)
    (hT : T.Nonempty) (h_diag : S ×ˢ T ⊆ idRel) : ∃ x, S = {x} := by
```

File: Mathlib/Topology/UniformSpace/Basic.lean [hunk 2]
```diff
@@ -136,6 +136,31 @@ theorem mem_idRel {a b : α} : (a, b) ∈ @idRel α ↔ a = b :=
...
+  simp only [idRel, mem_setOf_eq] at hx hs
+  rwa [← hs] at hx
+
+theorem prod_subset_idRel_Eq_singleton_right {X : Type _} {S T : Set X} (hS : S.Nonempty)
+    (hT : T.Nonempty) (h_diag : S ×ˢ T ⊆ idRel) : ∃ x, T = {x} := by
+  rw [Set.prod_subset_iff] at h_diag
+  replace h_diag := fun x hx y hy => (h_diag y hy x hx).symm
+  exact prod_subset_idRel_Eq_singleton_left hT hS (prod_subset_iff.mpr h_diag)
+
+theorem prod_subset_idRel_Eq_singleton {X : Type _} {S T : Set X} (hS : S.Nonempty)
```
Comment (jcommelin) [inline Mathlib/Topology/UniformSpace/Basic.lean:155]:
```suggestion
theorem eq_singleton_prod_subset_idRel {X : Type _} {S T : Set X} (hS : S.Nonempty)
```

File: Mathlib/Topology/UniformSpace/Cauchy.lean [hunk 3]
```diff
@@ -787,4 +787,29 @@ theorem secondCountable_of_separable [SeparableSpace α] : SecondCountableTopolo
...
+  obtain ⟨x, rfl⟩ :=
+    prod_subset_idRel_Eq_singleton_left (α_ne_bot.nonempty_of_mem hS) (Filter.nonempty_of_mem hT) H
+  exact ⟨x, α_ne_bot.le_pure_iff.mp <| le_pure_iff.mpr hS⟩
+
+/-- A constant to which a Cauchy filter in a discrete uniform space converges. -/
+noncomputable def DiscreteUnif.cauchy_const {X : Type _} {uX : UniformSpace X}
+    (hX : uX = ⊥) {α : Filter X} (hα : Cauchy α) : X :=
+  (DiscreteUnif.cauchy_le_pure hX hα).choose
+
+theorem DiscreteUnif.cauchy_const_eq {X : Type _} {uX : UniformSpace X} (hX : uX = ⊥)
```
[the remark this answers is not in the document]
Comment (faenuccio) [reply Mathlib/Topology/UniformSpace/Cauchy.lean:809]: Done, but I added an "of".

File: Mathlib/RingTheory/LaurentSeries.lean [hunk 4]
```diff
@@ -26,6 +27,11 @@ import Mathlib.RingTheory.Localization.FractionRing
 * Embedding of rational functions into Laurent series, provided as a coercion, utilizing
 the underlying `RatFunc.coeAlgHom`.
 * Study of the `X`-Adic valuation on the ring of Laurent series over a field
+* In `uniformContinuous_coeff` we show that sending a Laurent series to its `d`th coefficient in
```
Comment (AntoineChambert-Loir) [inline Mathlib/RingTheory/LaurentSeries.lean:30]: Can you qualify the lemmas in the docstring? For example, `LaurentSeries.uniformContinuous_coeff`…

File: Mathlib/RingTheory/LaurentSeries.lean [hunk 5]
```diff
@@ -609,3 +617,169 @@ theorem val_le_one_iff_eq_coe (f : LaurentSeries K) : Valued.v f ≤ (1 : ℤₘ
...
+
+open Filter
+
+open scoped DiscreteValuation
+
+variable {K : Type*} [Field K]
+
+/- Sending a Laurent series to its `d`-th coefficient is uniformly continuous when the coefficient
+field has the discrete uniformity. -/
+theorem uniformContinuous_coeff {uK : UniformSpace K} (h : uK = ⊥) (d : ℤ) :
```
Comment (AntoineChambert-Loir) [inline Mathlib/RingTheory/LaurentSeries.lean:631]: I have the (mathematical) impression that the theorem does not really need the hypothesis that the coefficient has the discrete uniformity.

File: Mathlib/RingTheory/LaurentSeries.lean [hunk 6]
```diff
@@ -609,3 +617,169 @@ theorem val_le_one_iff_eq_coe (f : LaurentSeries K) : Valued.v f ≤ (1 : ℤₘ
...
+    UniformContinuous fun f : LaurentSeries K ↦ f.coeff d := by
+  refine uniformContinuous_iff_eventually.mpr fun S hS ↦ eventually_iff_exists_mem.mpr ?_
+  let γ : ℤₘ₀ˣ := Units.mk0 (↑(Multiplicative.ofAdd (-(d + 1)))) WithZero.coe_ne_zero
+  use {P | Valued.v (P.snd - P.fst) < ↑γ}
+  refine ⟨(Valued.hasBasis_uniformity (LaurentSeries K) ℤₘ₀).mem_of_mem (by tauto), fun P hP ↦ ?_⟩
+  rw [eq_coeff_of_valuation_sub_lt K (le_of_lt hP) (lt_add_one _)]
+  apply bot_uniformity ▸ h ▸ hS; rfl
+
+/-- Since extracting coefficients is uniformly continuous, every Cauchy filter in
+`laurent_series K` gives rise to a Cauchy filter in `K` for every `d : ℤ`, and such Cauchy filter
```
Comment (AntoineChambert-Loir) [inline Mathlib/RingTheory/LaurentSeries.lean:641]: `LaurentSeries K`

File: Mathlib/RingTheory/LaurentSeries.lean [hunk 7]
```diff
@@ -609,3 +617,169 @@ theorem val_le_one_iff_eq_coe (f : LaurentSeries K) : Valued.v f ≤ (1 : ℤₘ
...
+    Tendsto (fun f : LaurentSeries K ↦ f.coeff D) ℱ (𝓟 {coeff hℱ D}) :=
+  let _ : UniformSpace K := ⊥
+  le_of_eq <| UniformSpace.DiscreteUnif.eq_const_of_cauchy (by rfl)
+    (hℱ.map (uniformContinuous_coeff rfl D)) ▸ (principal_singleton _).symm
+
+/- For every Cauchy filter of Laurent series, there is a `N` such that the `n`-th coefficient
+vanishes for all `n ≤ N` and almost all series in the filter. This is an auxiliary lemma used
+to construct the limit of the Cauchy filter as a Laurent series, ensuring that the support of the
+limit is `PWO`.-/
+lemma Cauchy.exists_lb_eventual_support {ℱ : Filter (LaurentSeries K)} (hℱ : Cauchy ℱ) :
```
Comment (AntoineChambert-Loir) [inline Mathlib/RingTheory/LaurentSeries.lean:657]: Here, I'm certain that the fact that one uses Laurent series is not needed, the same proof would probably show that Hahn series are complete.

File: Mathlib/RingTheory/LaurentSeries.lean [hunk 8]
```diff
@@ -609,3 +617,169 @@ theorem val_le_one_iff_eq_coe (f : LaurentSeries K) : Valued.v f ≤ (1 : ℤₘ
...
+        <| lt_trans hn <| Int.sub_one_lt_iff.mpr <| min_le_left _ _
+      exact lt_of_lt_of_le hn <| le_of_lt (Int.sub_one_lt_of_le <| min_le_right _ _)
+  use N
+  apply mem_of_superset (inter_mem hS hT)
+  intro g hg
+  have h_prod : (f, g) ∈ entourage := Set.prod_mono (Set.inter_subset_left (t := T))
+    (Set.inter_subset_right (s := S)) |>.trans H <| Set.mem_prod.mpr ⟨hf, hg⟩
+  exact hN g (le_of_lt h_prod)
+
+/- The support of `Cauchy.coeff` is bounded below -/
```
Comment (AntoineChambert-Loir) [inline Mathlib/RingTheory/LaurentSeries.lean:685]: maybe: “has a lower bound” (to explain the discrepancy with the next theorem)

File: Mathlib/RingTheory/LaurentSeries.lean [hunk 9]
```diff
@@ -609,3 +617,169 @@ theorem val_le_one_iff_eq_coe (f : LaurentSeries K) : Valued.v f ≤ (1 : ℤₘ
...
+  apply Filter.mem_of_superset hN (fun _ ha ↦ ha _ hn)
+
+/- The support of `Cauchy.coeff` is bounded below -/
+theorem Cauchy.coeff_support_bddBelow {ℱ : Filter (LaurentSeries K)} (hℱ : Cauchy ℱ) :
+    BddBelow (coeff hℱ).support := by
+  refine ⟨(exists_lb_support hℱ).choose, fun d hd ↦ ?_⟩
+  by_contra hNd
+  exact hd ((exists_lb_support hℱ).choose_spec d (not_le.mp hNd))
+
+/-- To any Cauchy filter ℱ of `laurent_series K`, we can attach a laurent series that is the limit
```
Comment (AntoineChambert-Loir) [inline Mathlib/RingTheory/LaurentSeries.lean:702]: `LaurentSeries K`.

File: Mathlib/RingTheory/LaurentSeries.lean [hunk 10]
```diff
@@ -609,3 +617,169 @@ theorem val_le_one_iff_eq_coe (f : LaurentSeries K) : Valued.v f ≤ (1 : ℤₘ
...
+of the filter. Its `d`-th coefficient is defined as the limit of `ℱ.coeff d`, which is again Cauchy
+but valued in the discrete space `K`. That sufficiently negative coefficients vanish follows from
+`Cauchy.coeff_support_bddBelow` -/
+def Cauchy.mk_LaurentSeries {ℱ : Filter (LaurentSeries K)} (hℱ : Cauchy ℱ) : LaurentSeries K :=
+  HahnSeries.mk (coeff hℱ) <| Set.IsWF.isPWO (coeff_support_bddBelow _).wellFoundedOn_lt
+
+/- The following lemma shows that for every `d` smaller than the minimum between the integers
+produced in `cauchy.exists_lb_eventual_support` and `cauchy.exists_lb_support`, for almost all
```
Comment (AntoineChambert-Loir) [inline Mathlib/RingTheory/LaurentSeries.lean:710]: `Cauchy`. (And maybe adjust the rest)

File: Mathlib/RingTheory/LaurentSeries.lean [hunk 11]
```diff
@@ -609,3 +617,169 @@ theorem val_le_one_iff_eq_coe (f : LaurentSeries K) : Valued.v f ≤ (1 : ℤₘ
...
+  let φ : ℤ → Set (LaurentSeries K) := fun d ↦ {f | coeff hℱ d = f.coeff d}
+  have intersec :
+    (⋂ n ∈ Set.Iio D, φ n) ⊆ {x : LaurentSeries K | ∀ d : ℤ, d < D → coeff hℱ d = x.coeff d} := by
+    intro _ hf
+    simp only [Set.mem_iInter] at hf
+    exact hf
+  let N := min (exists_lb_coeff_ne hℱ).choose D
+  -- The goal becomes to show that the intersection of all `φ n` (for `n ≤ D`) is in `ℱ`.
+  suffices (⋂ n ∈ Set.Iio D, φ n) ∈ ℱ by
+    exact ℱ.3 this intersec
```
Comment (AntoineChambert-Loir) [inline Mathlib/RingTheory/LaurentSeries.lean:733]: I would prefer to read `ℱ.sets_of_superset` rather than `ℱ.3`

File: Mathlib/RingTheory/LaurentSeries.lean [hunk 12]
```diff
@@ -609,3 +617,169 @@ theorem val_le_one_iff_eq_coe (f : LaurentSeries K) : Valued.v f ≤ (1 : ℤₘ
...
+  -- We first treat the case where `D` is already so small that all series in `ℱ` have trivial
+  -- coefficient below `D`
+  by_cases H : D < (exists_lb_coeff_ne hℱ).choose
+  · apply ℱ.3 (exists_lb_coeff_ne hℱ).choose_spec
+    simp only [Set.mem_Iio, Set.subset_iInter_iff]
+    intro _ hm _ hd
+    exact hd _ (lt_trans hm H)
+  -- We are left with the case when some coefficients below `D` are still non-zero.
+  · rw [← Set.Iio_union_Ico_eq_Iio (le_of_not_gt H), Set.biInter_union]
```
Comment (AntoineChambert-Loir) [inline Mathlib/RingTheory/LaurentSeries.lean:742]: I have the impression that the use of `H` is not that necessary (so that the `by_cases H` earlier maybe too complicated than needed).

File: Mathlib/Topology/UniformSpace/Cauchy.lean [hunk 13]
```diff
@@ -787,4 +787,29 @@ theorem secondCountable_of_separable [SeparableSpace α] : SecondCountableTopolo
     refine ⟨_, ⟨y, hys, k, rfl⟩, (hts k).subset hxy, fun z hz => ?_⟩
     exact hUV (ball_subset_of_comp_subset (hk hxy) hUU' (hk hz))
 
+section DiscreteUniformity
+
+open Filter
+
+/-- A Cauchy filter in a discrete uniform space is contained in a principal filter-/
```
Comment (AntoineChambert-Loir) [inline Mathlib/Topology/UniformSpace/Cauchy.lean:794]: Here, it should suffice that the *topology* is discrete (whatever the uniform structure is).

File: Mathlib/Topology/UniformSpace/Cauchy.lean [hunk 14]
```diff
@@ -787,4 +787,29 @@ theorem secondCountable_of_separable [SeparableSpace α] : SecondCountableTopolo
...
+  obtain ⟨x, rfl⟩ := eq_singleton_left_of_prod_subset_idRel (α_ne_bot.nonempty_of_mem hS)
+    (Filter.nonempty_of_mem hT) H
+  exact ⟨x, α_ne_bot.le_pure_iff.mp <| le_pure_iff.mpr hS⟩
+
+/-- A constant to which a Cauchy filter in a discrete uniform space converges. -/
+noncomputable def DiscreteUnif.cauchyConst {X : Type _} {uX : UniformSpace X}
+    (hX : uX = ⊥) {α : Filter X} (hα : Cauchy α) : X :=
+  (DiscreteUnif.cauchy_le_pure hX hα).choose
+
+theorem DiscreteUnif.eq_const_of_cauchy {X : Type _} {uX : UniformSpace X} (hX : uX = ⊥)
```
Comment (AntoineChambert-Loir) [inline Mathlib/Topology/UniformSpace/Cauchy.lean:809]: This should hold for the discrete topology.

File: Mathlib/Topology/UniformSpace/Cauchy.lean (hunk 13 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Topology/UniformSpace/Cauchy.lean:794]: (And even a bit less : it suffices that all points be open)

File: Mathlib/Topology/UniformSpace/Cauchy.lean (hunk 14 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Topology/UniformSpace/Cauchy.lean:809]: (NB. Points open + T2 means that points are open and closed, so the topology is discrete.)

**Review by AntoineChambert-Loir — APPROVED** [review]
My comments are minor, it may not be necessary that they are implemented (if they work as planned), but what holds mathematically should be recorded in the file so as to prepare for further work of other people.

File: Mathlib/RingTheory/LaurentSeries.lean (hunk 7 above)
Comment (faenuccio) [reply Mathlib/RingTheory/LaurentSeries.lean:657]: Well, my problem here is that I make strong use of an explicit description of the uniformity on `LaurentSeries K` coming from its `Valued` group structure, where entourages are defined in terms of the `X`-adic valuation. Nothing of this is currently available for Hahn series. I can of course make a remark (or you can add it to this PR, please do feel free!) but I fear that generalizing the result now would result in a gigantic refactor.

**Comment by faenuccio** [comment]
@AntoineChambert-Loir I have addressed all your points concerning the file `LaurentSeries.lean` (with a comment that generalizing to arbitrary Hahn series seems hard at the moment). I will tackle the other comments about the discrete topology tomorrow.

File: Mathlib/RingTheory/LaurentSeries.lean (hunk 7 above)
Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/LaurentSeries.lean:657]: Then a remark will be OK. Ultimately people will prove that the natural topology on Hahn series is complete, and that for Z, it gives the topology given by the valuation.

**Comment by faenuccio** [comment]
I have added a remark concerning the potential extension to Hahn Series, while I think that the comment about the result holding already for the discrete topology is false as discussed with @AntoineChambert-Loir on Zulip.

**Comment by AntoineChambert-Loir** [comment]
It looks good to me. Thanks!

File: Mathlib/RingTheory/LaurentSeries.lean [hunk 15]
```diff
@@ -609,3 +617,169 @@ theorem val_le_one_iff_eq_coe (f : LaurentSeries K) : Valued.v f ≤ (1 : ℤₘ
...
+    BddBelow (coeff hℱ).support := by
+  refine ⟨(exists_lb_support hℱ).choose, fun d hd ↦ ?_⟩
+  by_contra hNd
+  exact hd ((exists_lb_support hℱ).choose_spec d (not_le.mp hNd))
+
+/-- To any Cauchy filter ℱ of `LaurentSeries K`, we can attach a laurent series that is the limit
+of the filter. Its `d`-th coefficient is defined as the limit of `Cauchy.coeff hℱ d`, which is
+again Cauchy but valued in the discrete space `K`. That sufficiently negative coefficients vanish
+follows from `Cauchy.coeff_support_bddBelow` -/
+def Cauchy.mk_LaurentSeries {ℱ : Filter (LaurentSeries K)} (hℱ : Cauchy ℱ) : LaurentSeries K :=
```
[the remark this answers is not in the document]
Comment (faenuccio) [reply Mathlib/RingTheory/LaurentSeries.lean:711]: Yes, given we're in the LaurentSeries namespace this makes sense. Updating.

File: Mathlib/RingTheory/LaurentSeries.lean [hunk 16]
```diff
@@ -609,3 +617,169 @@ theorem val_le_one_iff_eq_coe (f : LaurentSeries K) : Valued.v f ≤ (1 : ℤₘ
...
+    · rw [biInter_mem (Set.finite_Icc ℓ N)]
+      intro _ _
+      apply coeff_tendsto hℱ
+      simp only [principal_singleton, mem_pure]; rfl
+
+
+open scoped Topology
+
+/- The main result showing that the Cauchy filter tends to the `hℱ.mk_LaurentSeries`-/
+theorem Cauchy.eventually_mem_nhds {ℱ : Filter (LaurentSeries K)} (hℱ : Cauchy ℱ)
```
[the remark this answers is not in the document]
Comment (faenuccio) [reply Mathlib/RingTheory/LaurentSeries.lean:763]: Done, I have called `instLaurentSeriesComplete` the instance below, and mentioned it in the namespace.

[the remark this answers is not in the document]
Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/LaurentSeries.lean:764]: Do you really need to give the instance a name? Can't it be generated automatically?

[the remark this answers is not in the document]
Comment (faenuccio) [reply Mathlib/RingTheory/LaurentSeries.lean:764]: Yes, it could (and it was), but one of @jcommelin 's request was that I mention it explicitly in the docstring, and for this it needs to be named.

[the remark this answers is not in the document]
Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/LaurentSeries.lean:764]: OK. My impression was that instances get named automatically, and hence you could use/document the name even if you let Lean compute it for you. (I admit this makes the docstring sensitive to a future change in the naming process.)

**Comment by jcommelin** [comment]
Thanks :tada: 

If CI passes, please remove the label `awaiting-CI` and merge this yourself, by adding a comment `bors r+`.

bors d+

File: Mathlib/RingTheory/LaurentSeries.lean (hunk 16 above)
[the remark this answers is not in the document]
Comment (faenuccio) [reply Mathlib/RingTheory/LaurentSeries.lean:764]: Yes, they are but their name don't appear. You can use `#synth` to see what has been created automatically, but since the name does not appear in print any textual search would fail (for now it is the last bit of the file, but if later on more things are added, it might be useful to be able to search for its name and to jump to the right line).

**Comment by sgouezel** [comment]
Can you merge master, fix the build, and then send it back to bors?
bors d+

**Comment by faenuccio** [comment]
> Can you merge master, fix the build, and then send it back to bors? bors d+

Oh sure, when I sent it to bors everything was green (or at least I believe): I wonder if it is possible that some conflict emerged while bors was merging another batch of PR's, or if I was just too sloppy, Johan's warning notwhistanding.
